US06057326
(S)-4-[α-(hydroxymethyl)benzylamino]-6,7-dimethoxyquinazoline hydrochloride salt
To a solution of (S)-4-[α-(hydroxymethyl)benzylamino]-6,7dimethoxyquinazoline (325 mg, 1 mmol) in ethanol (2 ml) was added 1N hydrochloric acid (2 ml, 2 mmol) and the resulting mixture was evaporated under vacuum to dryness to give pure title compound in about 100% yield.

reactant | (S)-4-[α-(hydroxymethyl)benzylamino]-6,7dimethoxyquinazoline | 1 mmol, 325 mg | OC[C@H](C1=CC=CC=C1)NC1=NC=NC2=CC(=C(C=C12)OC)OC | C18H19N3O3
reactant | hydrochloric acid | 2 mmol, 1N, 2 ml | Cl | ClH
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | (S)-4-[α-(hydroxymethyl)benzylamino]-6,7-dimethoxyquinazoline hydrochloride salt | about 100% yield | Cl.OC[C@H](C1=CC=CC=C1)NC1=NC=NC2=CC(=C(C=C12)OC)OC | InChI=1S/C18H19N3O3.ClH/c1-23-16-8-13-14(9-17(16)24-2)19-11-20-18(13)21-15(10-22)12-6-4-3-5-7-12;/h3-9,11,15,22H,10H2,1-2H3,(H,19,20,21);1H/t15-;/m1./s1
